US05602277
EXAMPLE 7 4-Acetylaminophenylphosphonic acid.
To a suspension of (4-aminophenyl)phosphonic acid (Aldrich, 0.00058 mol) in water (1.5 mL) was added sufficient sodium bicarbonate to make a clear solution. To the mixture, acetic anhydride (0.2 mL, 0.002 mol) was added and stirred for 0.5 h. Again, acetic anhydride (0.2 mL, 0.002 mol) was added and stirred for 0.5 h. The mixture was let stand at room temperature for 2 h and then concentrated hydrochloric acid (0.5 mL) was added. Fine white needles separated out which were collected by filtration, washed with water and dried to give 0.048 g (38.5%) of the title compound, mp 228° C. (rep. mp 229° C.--Bauer, H. J. Am. Chem. Soc. 1947, 63, 2137-2138).

reactant | (4-aminophenyl)phosphonic acid | 0.00058 mol | NC1=CC=C(C=C1)P(O)(O)=O | C6H8NO3P
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | acetic anhydride | 0.002 mol, 0.2 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetic anhydride | 0.002 mol, 0.2 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | hydrochloric acid | 0.5 mL | Cl | ClH
solvent | water | 1.5 mL | O | H2O
product | 4-Acetylaminophenylphosphonic acid | 0.048 g, 38.5% | C(C)(=O)NC1=CC=C(C=C1)P(O)(O)=O | C8H10NO4P
